US08258119B2
Methyl 3-amino-5-phenylthiophene-2-carboxylate:
To a solution of methyl thioglycolate (1 g, 9.43 mmol) in methanol (5 mL) was added a solution of sodium methoxide (0.5 g, 9.43 mmol) in methanol (5 mL) and stirred for 0.5 h. To the above mixture, a solution of 3-chloro-3-phenylprop-2-enenitrile (1.22 g, 7.5 mmol) in DMF (3.5 mL) was added dropwise for 10 min at rt and stirred the mixture at 60° C. for 2 h. Then, a solution of sodium methoxide (1 g, 18.6 mmol) in methanol (10 mL) was added dropwise at rt and stirring was continued for 2 h at 60° C. The mixture was allowed to rt and poured into cold water and stirred for 15 min. The solution was extracted with chloroform (3×100 mL) and the combined chloroform layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel using hexane-ethyl acetate (92:8) as eluent to give the product as a pale yellow color solid (1.1 g, 50%), mp 130-132° C. 1H NMR (400 MHz, DMSO-d6): δ 7.62-7.65 (2H, m), 7.38-7.48 (3H, m), 7.00 (1H, s), 4.29 (2H, br s), 3.74 (3H, s); LC-MS (positive ion mode): m/z 234 (M+H)+.

reactant | methyl thioglycolate | 9.43 mmol, 1 g | C(CS)(=O)OC | C3H6O2S
reactant | sodium methoxide | 9.43 mmol, 0.5 g | C[O-].[Na+]
reactant | 3-chloro-3-phenylprop-2-enenitrile | 7.5 mmol, 1.22 g | ClC(=CC#N)C1=CC=CC=C1 | C9H6ClN
reactant | sodium methoxide | 18.6 mmol, 1 g | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 3-amino-5-phenylthiophene-2-carboxylate | 1.1 g, 50% | NC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C12H11NO2S
